US07390923B2
a) 4-Amino-2-methylbenzonitrile
3-Methyl-4-nitrobenzonitrile (1.0 g, 6 mmol) was dissolved in acetic acid (15 ml). Water (3.75 ml) was added and the mixture was heated between 90-95° C. Iron powder (2.5 g) was added during 1.5 hours and the resulting mixture was heated for 1 hour. Other portion of water (3.75 ml) was added and the heating was continued for additional 2 hours. The solution was allowed to cool to room temperature and the mixture was diluted with water (100 ml) and extracted with ethyl acetate (4×40 ml). The organic phase was washed with 5% NaHCO3 (1×50 ml) and water (1×50 ml), dried over Na2SO4 and evaporated. The crude product was used without further purifications. 1H NMR (DMSO-d6): 2.28 (3H, s), 6.04 (2H, bs), 6.44 (1H, m), 6.48 (1H, m), 7.31 (1H, m).

reactant | 3-Methyl-4-nitrobenzonitrile | 6 mmol, 1.0 g | CC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O2
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
catalyst | Iron | 2.5 g | [Fe] | Fe
solvent | water | 3.75 ml | O | H2O
solvent | Water | 3.75 ml | O | H2O
product | 4-Amino-2-methylbenzonitrile | NC1=CC(=C(C#N)C=C1)C | C8H8N2
